US06492364B1
Methyl 3-(3-hydroxyquinoxaline-2-yl)propanoate (701 mg) was dissolved in dimethylsulfoxide (8 ml), dimethylformamide (8 ml), dimethylformamide (20 ml) and water (10 ml), and then lithium hydroxide (80 mg) was added to the solution, followed by stirring the mixture overnight at room temperature. Then lithium hydroxide (110 mg) was further added and the mixture was stirred for 2 days. To the reaction solution, 1N hydrochloric acid was added and the resulting mixture was extracted 3 times with ethyl acetate. Organic layers were combined and washed with brine. The resultant was dried over anhydrous sodium sulfate and then concentrated to obtain 642 mg of 3-(3-hydroxyquinoxaline-2-yl)propanoic acid Yield: 97%.

reactant | Methyl 3-(3-hydroxyquinoxaline-2-yl)propanoate | 701 mg | OC=1C(=NC2=CC=CC=C2N1)CCC(=O)OC | C12H12N2O3
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | lithium hydroxide | 80 mg | [OH-].[Li+]
reactant | lithium hydroxide | 110 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylsulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | water | 10 ml | O | H2O
product | 3-(3-hydroxyquinoxaline-2-yl)propanoic acid | 642 mg, Yield: 97% | OC=1C(=NC2=CC=CC=C2N1)CCC(=O)O | C11H10N2O3
